US07595398B2
4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide
4-(2-Amino-thiazol-4-yl)-benzoic acid (4.4 g, 20 mmol) was dissolved in DMF (100 mL) and treated with HATU (1.1 eq. 8.4 g) and DIEA (2.1 eq, 7.5 mL) and stirred for 15 minutes. Then cyclopropyl amine (1.1 eq, 1.5 mL) was added and the mixture stirred at ambient temperature for 1 hr. The reaction was diluted with 100 mL of water, extracted with EtOAc (3×100 mL) dried with brine (100 mL) and then Na2SO4 and the solvents removed. The resulting solid was triturated with ether to give the product >95% purity by HPLC. MS: 260.3 (M+H).

reactant | 4-(2-Amino-thiazol-4-yl)-benzoic acid | 20 mmol, 4.4 g | NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2S
reactant | HATU | 8.4 g, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 7.5 mL, 2.1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropyl amine | 1.5 mL, 1.1 eq | C1(CC1)N | C3H7N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide | >95% | NC=1SC=C(N1)C1=CC=C(C(=O)NC2CC2)C=C1 | C13H13N3OS
